US06025489
Dissolve 2,4-bis(1H-imidazol-1-yl)-5-nitro-6-(2-propyl)pyrimidine (16 g, 53.5 mmol) in 300 mL of ethanol and add 35 g of tin (II) chloride dihydrate. Stir for 2 hours at ambient temperature. Remove the solvent under vacuum and slurry the residue in 2 L of CH2Cl2. Wash with 2×3 L 10% KOH. Dry the CH2Cl2 portion over MgSO4, treat with charcoal, filter, and concentrate the filtrate under vacuum. Crystallize the residue from ethyl acetate to provide 2,4-bis(1H-imidazol-1-yl)-6-(2-propyl)pyrimidin-5-amine.

reactant | 2,4-bis(1H-imidazol-1-yl)-5-nitro-6-(2-propyl)pyrimidine | 53.5 mmol, 16 g | N1(C=NC=C1)C1=NC(=C(C(=N1)N1C=NC=C1)[N+](=O)[O-])C(C)C | C13H13N7O2
reactant | tin (II) chloride dihydrate | 35 g | O.O.[Sn](Cl)Cl
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 2,4-bis(1H-imidazol-1-yl)-6-(2-propyl)pyrimidin-5-amine | N1(C=NC=C1)C1=NC(=C(C(=N1)N1C=NC=C1)N)C(C)C | C13H15N7
